US07618970B2
tert-Butyl ((1R,3S)-3-isopropyl-3-{[4-phenyl-2-(trifluoromethyl)-3,6-dihydropyridin-1(2H)-yl]carbonyl}cyclopentyl)carbamate
To a solution of (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid (115 mg, 0.424 mmol) and 4-[2-(trifluoromethyl)phenyl]-1,2,3,6-tetrahydropyridine trifluoroacetate (152 mg, 0.445 mmol) in methylene chloride (2 mL) was added triethylamine (0.21 g, 2.1 mmol) followed by benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (210 mg, 0.47 mmol). After being stirred overnight at room temperature, the reaction was quenched with saturated NaHCO3 solution. The resulting solution was extracted with methylene chloride three times. The combined extracts were dried (MgSO4), filtered, and concentrated. Purification by flash chromatography on silica gel (0-50% B over 15 min. Bottle A=hexanes, Bottle B=EtOAc) provided 174 mg of desired product as a white solid. MS calculated for C26H35F3N2O3:(M+H) 481; found 481.1.

reactant | (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid | 0.424 mmol, 115 mg | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)C(C)C | C14H25NO4
reactant | 4-[2-(trifluoromethyl)phenyl]-1,2,3,6-tetrahydropyridine trifluoroacetate | 0.445 mmol, 152 mg | FC(C(=O)O)(F)F.FC(C1=C(C=CC=C1)C=1CCNCC1)(F)F
reactant | triethylamine | 2.1 mmol, 0.21 g | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.47 mmol, 210 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl ((1R,3S)-3-isopropyl-3-{[4-phenyl-2-(trifluoromethyl)-3,6-dihydropyridin-1(2H)-yl]carbonyl}cyclopentyl)carbamate | 174 mg | C(C)(C)[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1C(CC(=CC1)C1=CC=CC=C1)C(F)(F)F | C26H35F3N2O3
